US06114520
To a stirred solution of 5'-deoxy-2',3'-bis-O-(tert-butyidimethylsilyl)-5-iodocytidine (116 mg, 0.200 mmol) in CH2Cl2 (2 ml) pyridine (84 μl, 1.00 mmol), N,N-dimethylamino-pyridine (6 mg, 0.05 mmol), and n-pentyl chloroformate (95 μl, 0.600 mmol) was added at room temperature under Ar. After stirring for 30 minutes, the reaction mixture was partitioned with dichloromethane and water and the organic phase was separated and the water phase was extracted with CH2Cl2 (15 ml×4). The combined organic phase was washed with water and brine, dried over Na2SO4 and filtered. The filtrate was evaporated under reduced pressure. The crude product was purified by flash chromatography on SiO2 (eluent: 20% EtOAc/n-hexane) to give 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-iodo-N4 -(n-pentyloxycarbonyl)cytidine as a colorless amorphous solid. (132.4 mg, 91 % yield)

reactant | 5'-deoxy-2',3'-bis-O-(tert-butyidimethylsilyl)-5-iodocytidine | 0.200 mmol, 116 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(N)C(=C1)I | C21H40IN3O4Si2
reactant | CH2Cl2 | 1.00 mmol, 2 ml | C(Cl)Cl | CH2Cl2
reactant | n-pentyl chloroformate | 0.600 mmol, 95 μl | ClC(=O)OCCCCC | C6H11ClO2
product | 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-iodo-N4 -(n-pentyloxycarbonyl)cytidine | 91 % yield | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(NC(=O)OCCCCC)C(=C1)I | C27H50IN3O6Si2
